US05476860
2-hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzyl alcohol;
acetate of 2-acetoxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzylalcohol;

reactant | acetate | C(C)(=O)[O-]
reactant | 2-acetoxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzylalcohol | C(C)(=O)OC1=C(CO)C=CC(=C1)OCC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O | C25H32O5
product | 2-hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzyl alcohol | OC1=C(CO)C=CC(=C1)OCC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O | C23H30O4
